US04999370
(7a) Benzyl 2-tert.butyloxycarbonyl-(1S,3S,5S)-2-azabicyclo[3.3.0]octane-3-carboxylate
A solution of 39.2 g (0.180 mol) of di-tert.-butyl dicarbonate in 60 ml of absolute methylene chloride is slowly added dropwise, at 0° C., to a solution of 40.0 g (0.163 mol) of benzyl (1S,3S,5S)-2-azabicyclo[3.3.0]-octane-3-carboxylate and 23.4 ml (0.169 mol) of absolute triethylamine in 300 ml of absolute methylene chloride, and the mixture is then stirred at 0° C. for 15 minutes and at room temperature for one hour. The reaction solution is washed with 10% strength citric acid solution, saturated sodium bicarbonate solution and water, dried and concentrated. Yield: 55.6 g of oily product [α]D25 =-1.2° (c=2, methanol)

reactant | di-tert.-butyl dicarbonate | 0.180 mol, 39.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | benzyl (1S,3S,5S)-2-azabicyclo[3.3.0]-octane-3-carboxylate | 0.163 mol, 40.0 g | [C@H]12N[C@@H](C[C@@H]2CCC1)C(=O)OCC1=CC=CC=C1 | C15H19NO2
reactant | triethylamine | 0.169 mol, 23.4 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | Benzyl 2-tert.butyloxycarbonyl-(1S,3S,5S)-2-azabicyclo[3.3.0]octane-3-carboxylate | C(C)(C)(C)OC(=O)N1[C@H]2CCC[C@H]2C[C@H]1C(=O)OCC1=CC=CC=C1 | C20H27NO4
